US07560571B2
4-Nicotinoylamino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrole-2-carboxamide
To 0.15 g (0.328 mmol) 4-amino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide hydrochloride dissolved in 4.5 cm3 of tetrahydrofuran are added, at a temperature in the region of 20° C. under an argon atmosphere, 0.058 g of nicotinoyl chloride hydrochloride, 0.091 cm3 of triethylamine and 8 mg of 4-dimethylaminopyridine. After stirring for 16 hours at reflux, the reaction mixture is diluted with 15 cm3 of dichloromethane and then washed with twice 10 cm3 of saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 148 mg of a beige-coloured solid, which is purified by flash chromatography [eluent: dichloromethane/methanol/acetonitrile (82/9/9 by volume)]. After concentrating the fractions under reduced pressure, 0.01 g of 4-nicotinoyl-amino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrole-2-carboxamide is obtained in the form of a yellow solid; ES+: m/z=527: [M+H]+.

reactant | 4-amino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide hydrochloride | 0.328 mmol, 0.15 g | Cl.NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F
reactant | nicotinoyl chloride hydrochloride | 0.058 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 0.091 cm3 | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.5 cm3 | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 4-Nicotinoylamino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrole-2-carboxamide | 148 mg | C(C1=CN=CC=C1)(=O)NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C25H18F4N6O3
